Band Pass Filter
*Resistor_1
R1 2 0 1k
*Capacitor_1
C1 1 2 6.366n
*Resistor_2
R2 2 3 1k
*Capacitor_2
C2 3 0 5305n
*Voltage
Vin 1 0 dc 0 ac 1

*Simulation
.control

ac dec 10 1 1Meg

set color0 = white
set color1 = black
set color2 = blue
*Comment
plot vdb(3)
.endc 
 
