High Pass Filter
*Resistor
R1 2 0 5k
*Capacitor
C1 1 2 1.273n
*Voltage
Vin 1 0 dc 0 ac 1

*Simulation
.control

ac dec 10 1 1Meg

set color0 = white
set color1 = black
set color2 = blue

plot vdb(2)
.endc 
 
