Low Pass Filter
*Resistor
R1 1 2 5k
*Capacitor
C1 2 0 1061n
*Voltage
Vin 1 0 dc 0 ac 1

*Simuation
.control

ac dec 10 1 1k

set color0 = white
set color1 = black
set color2 = blue

plot vdb(2)
.endc 
