* C:\Users\Harshith\Desktop\IITH\Q1.asc
R1 Out N001 1k
R2 0 N002 100
C1 Out N002 1µ
Vin N001 0 SINE(0 1 1Meg)
;ac dec 300 1ms 1Megs
.tran 3us
.backanno
.end
