* C:\Users\Harshith\Desktop\IITH\Q2.asc
V1 N001 0 2.5
R1 N003 N004 2k
D1 N004 0 D_14
D2 N002 N003 D_14
R2 N002 N001 2k
.model D D
.lib C:\Users\Harshith\Documents\LTspiceXVII\lib\cmp\standard.dio
.model D_14 D(IS = 0.01p)
.op 10ms
.backanno
.end
