* C:\Users\Harshith\Desktop\IITH\Q3.asc
V1 0 N002 SINE(0 0.5 1k)
R1 N001 N002 1k
R2 Out N001 3k
R3 Out 0 1
G1 0 Out N001 0 1Meg
.tran 5m
.backanno
.end
