* C:\Users\Harshith\Desktop\IITH\Q4.asc
Vgs N002 0 {Vgs}
Vds N001 0 1.8
M1 N001 N002 0 0 nch_tt l=10u w=15u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Harshith\Documents\LTspiceXVII\lib\cmp\standard.mos
.include TSMC180.lib
.step param Vgs list 0.4 0.5 0.6 0.7 0.8 0.9
.dc Vds 0 1.8 1m
.backanno
.end
