* C:\Users\Harshith\Desktop\IITH\Q5.asc
R1 Out N001 200
V1 N001 0 PULSE(0 1 0 0.0001p 0 1)
C1 Out 0 1p
.tran 10n
;.step param tr list 10p 20p 50p 100p 200p 500p 1n 2n 5n 10n
.backanno
.end
