* Z:\home\solomon\VLSI\Assignments\Assignment 1\Simulation\Q2.asc
V1 N001 0 2.5
R1 N002 N001 2k
D1 N002 N003 ideal_diode
R2 N003 N004 2k
D2 N004 0 ideal_diode
.model D D
.lib C:\users\solomon\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model ideal_diode D (IS=0.01p)
.tran 10m
.backanno
.end
