* Z:\home\solomon\VLSI\Assignments\Assignment 2\Simulation\Q5.asc
M1 Vout N002 0 0 nch_tt W=450n L=180n
Vgs N002 0 1.8
R1 N001 Vout 75k
Vdd N001 0 2.5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\solomon\My Documents\LTspiceXVII\lib\cmp\standard.mos
.include "TSMC180.lib"
* W = 450nm, L = 180nm
.dc Vgs 0 2.5 1m
.backanno
.end
